US05446153
6,7-Dimethyl-1-(2-phenylethyl)-2,N4,N4 -tris(phenylmethyl)-1H -imidazo[4,5-c]pyridin-4-amine
Phenylacetyl chloride (0.6 mL, 4.5 mmole) was added to a solution of 5,6-dimethyl-N4 -(2-phenylethyl)-N2,N2 -bis(phenylmethyl)pyridine-2,3,4-triamine (1 96 g, 4.5 mmole) in methylenechloride (100 mL) and the resulting mixture was stirred at ambient temperature overnight. A catalytic amount of p-toluenesulfonic acid was added and stirring was continued at ambient temperature over the weekend. The reaction mixture was washed with saturated sodium bicarbonate solution, dried over magnesium sulfate then concentrated under vacuum to provide an oil. The oil was purified by silica gel column chromatography eluting with 5-10% ethyl acetate in hexane to provide 1.8 g of the desiredproduct as a white solid, m.p. 139°14 141° C. Analysis: Calculated for C37H36N4 : % C, 82.80; % H, 6.76; % N, 10.44; Found: % C, 82.86; % H, 6.78; % N, 10.36.

reactant | Phenylacetyl chloride | 4.5 mmole, 0.6 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 5,6-dimethyl-N4 -(2-phenylethyl)-N2,N2 -bis(phenylmethyl)pyridine-2,3,4-triamine | 4.5 mmole, 96 g | CC=1C(=C(C(=NC1C)N(CC1=CC=CC=C1)CC1=CC=CC=C1)N)NCCC1=CC=CC=C1 | C29H32N4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methylenechloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 6,7-Dimethyl-1-(2-phenylethyl)-2,N4,N4 -tris(phenylmethyl)-1H -imidazo[4,5-c]pyridin-4-amine | CC1=C(C2=C(C(=N1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)N=C(N2CCC2=CC=CC=C2)CC2=CC=CC=C2)C | C37H36N4
